US08314091B2
D: Ethyl 5-(tert-butoxycarbonyl)pyrazine-2-carboxylate
A mixture of ethyl 5-(azidocarbonyl)pyrazine-2-carboxylate (1.00 g, 4.52 mmol), tert-butanol (1.5 mL, 20.2 mmol) and toluene (15 mL) was heated to reflux for 1 hour. After cooling to room temperature, the solid precipitate was collected to afford the title compound (0.75 g).

reactant | ethyl 5-(azidocarbonyl)pyrazine-2-carboxylate | 4.52 mmol, 1.00 g | N(=[N+]=[N-])C(=O)C=1N=CC(=NC1)C(=O)OCC | C8H7N5O3
reactant | tert-butanol | 20.2 mmol, 1.5 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-(tert-butoxycarbonyl)pyrazine-2-carboxylate | 0.75 g | C(C)(C)(C)OC(=O)C=1N=CC(=NC1)C(=O)OCC | C12H16N2O4
